US04894386
4-[6-(Cyclopentylmethylcarbamoyl)methylindol-1-ylmethyl]-3-methoxy-N-(2-methylphenylsulfonyl)benzamide
A solution of 4-[6-(cyclopentylmethylcarbamoyl)methylindol-1-ylmethyl]-3-methoxybenzoic acid (0.60 g), 4-dimethylaminopyridine (0.18 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.33 g), and 2-methylbenzenesulfonamide (0.25 g) in methylene chloride (70 ml) was stirred under a nitrogen atmosphere for 80 hr. The mixture was diluted with methylene chloride, washed with 10% v/v hydrochloric acid and water, and evaporated. The resulting white solid was precipitated from methylene chloride with hexane to give the title compound (0.62 g, 76%) as a white solid: mp 187°-188°.

reactant | 4-[6-(cyclopentylmethylcarbamoyl)methylindol-1-ylmethyl]-3-methoxybenzoic acid | 0.60 g | C1(CCCC1)CNC(=O)CC1=CC=C2C=CN(C2=C1)CC1=C(C=C(C(=O)O)C=C1)OC | C25H28N2O4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.33 g | Cl.CN(CCCN=C=NCC)C
reactant | 2-methylbenzenesulfonamide | 0.25 g | CC1=C(C=CC=C1)S(=O)(=O)N | C7H9NO2S
catalyst | 4-dimethylaminopyridine | 0.18 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 4-[6-(Cyclopentylmethylcarbamoyl)methylindol-1-ylmethyl]-3-methoxy-N-(2-methylphenylsulfonyl)benzamide | 0.62 g, 76% | C1(CCCC1)CNC(=O)CC1=CC=C2C=CN(C2=C1)CC1=C(C=C(C(=O)NS(=O)(=O)C2=C(C=CC=C2)C)C=C1)OC | C32H35N3O5S
